US05886229
456.85 g of potassium tri-sec-butylborohydride (1.4 molar in THF) were added to a mixture of 29.7 g LiCl in 50 ml THF at 65° C. The reaction mixture was stirred for 2-4 hours at 65° C., cooled to room temperature and then filtered. The filter cake was then washed twice with 79.1 g THF. The filtrates were combined yielding lithium tri-sec-butyl borohydride in tetrahydrofuran as a clear, pale yellow liquid (99+% pure by atomic absorption).

reactant | potassium tri-sec-butylborohydride | 1.4 molar, 456.85 g | C(C)(CC)[BH-](C(C)CC)C(C)CC.[K+]
reactant | LiCl | 29.7 g | [Li+].[Cl-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | lithium tri-sec-butyl borohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+] | InChI=1S/C12H28B.Li/c1-7-10(4)13(11(5)8-2)12(6)9-3;/h10-13H,7-9H2,1-6H3;/q-1;+1
